US05998433
b) Synthesis of N,N-dimethyl-[5-(1-benzoylpiperidine-4-carbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[5-(1-benzoylpiperidine-4-carbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine 0.242 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was concentrated and washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[5-(1-benzoylpiperidine-4-carbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | 0.242 g | CN(C)CC1=CC=2CN(CCC2O1)C(=O)C1CCN(CC1)C(C1=CC=CC=C1)=O | C23H29N3O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[5-(1-benzoylpiperidine-4-carbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)C(=O)C1CCN(CC1)C(C1=CC=CC=C1)=O | InChI=1S/C23H29N3O3.ClH/c1-24(2)16-20-14-19-15-26(13-10-21(19)29-20)23(28)18-8-11-25(12-9-18)22(27)17-6-4-3-5-7-17;/h3-7,14,18H,8-13,15-16H2,1-2H3;1H
